US07612099B2
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and N-[2-(6-chloro-1H-indol-3-yl)-1,1-dimethyl-ethyl]-acetamide to give N-(2-{6-chloro-2-[(2-hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-phenyl-methyl]-1H-indol-3-yl}-1,1-dimethyl-ethyl)-acetamide as a pale yellow solid. MS: 527.3 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N-[2-(6-chloro-1H-indol-3-yl)-1,1-dimethyl-ethyl]-acetamide | ClC1=CC=C2C(=CNC2=C1)CC(C)(C)NC(C)=O | C14H17ClN2O
product | N-(2-{6-chloro-2-[(2-hydroxy-5-oxo-3-phenyl-cyclopent-1-enyl)-phenyl-methyl]-1H-indol-3-yl}-1,1-dimethyl-ethyl)-acetamide | ClC1=CC=C2C(=C(NC2=C1)C(C1=CC=CC=C1)C1=C(C(CC1=O)C1=CC=CC=C1)O)CC(C)(C)NC(C)=O | C32H31ClN2O3
